US04795815
Allyl 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate
Under a nitrogen atmosphere, 2-[2-(allyloxycarbonylamino)thiazol-4-yl]-2-(Z)-methoxyiminoacetic acid (231 mg, 0.81 mmol) was suspended in methylene chloride (5 ml) and the suspension was cooled to 0° C. 2-Chloro-4,6-dimethoxy-1,3,5-triazine (142 mg, 0.81 mmol) followed by N-methylmorpholine (0.09 ml, 0.81 mmol) were added and the solution was stirred at 0° C. for 30 minutes. A methylene chloride solution (10 ml) of allyl 3-(benzyloxycarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate chloride (0.81 mmol) followed by additional N-methylmorpholine (0.09 ml, 0.81 mmol) were added and the solution was stirred and allowed to warm gradually to room temperature over 1.5 hours. The methylene chloride was removed in vacuo and the resultant residue was flash chromatographed on silica gel eluted with 10% hexane:ethyl acetate to give 340 mg, 67% yield of the title compound: n.m.r. (90 MHz, CDCl3): δ 3.08 (dd, J=10.8 and 10.8, 1), 3.96 (s, 3), 3.99, 4.43 (ABq, J=12.6, 2), 3.88-4.28 (m, 2), 4.56-4.92 (m, 4), 5.16 (s, 2), 5.23 (d, J=9, 2), 5.42 (d, J=10.8, 2), 5.50-6.16 (m, 2), 7.10 (s, 1), 7.28 (br. s, 5), 8.09 (br. d, 1), 9.38 (br. s, 1); i.r. (CDCl3): 3025, 1731, 1704, 1557, 1386, 1369, 1277 cm-1 ; f.d.m.s. (m/e): M+ +1=625; u.v. (EtOH): εmax =264 (ε=10926), 338 (ε=6493); Anal. Calcd for C28H28N6O9S1 : Theory: C, 53.84; H, 4.52; N, 13.45; Found: C, 53.68; H, 4.59; N, 13.21.

reactant | 2-[2-(allyloxycarbonylamino)thiazol-4-yl]-2-(Z)-methoxyiminoacetic acid | 0.81 mmol, 231 mg | C(C=C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C10H11N3O5S
reactant | 2-Chloro-4,6-dimethoxy-1,3,5-triazine | 0.81 mmol, 142 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | 0.81 mmol, 0.09 ml | CN1CCOCC1 | C5H11NO
reactant | allyl 3-(benzyloxycarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate chloride | 0.81 mmol | [Cl-].C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C
reactant | N-methylmorpholine | 0.81 mmol, 0.09 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Allyl 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate | 340 mg, 67% yield | C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)NC(=O)OCC=C)=O)=O)C(=O)OCC=C | C28H28N6O9S
